US07320972B2
(3R,4S)-3-[(3S)-3-(4-Fluorophenyl)-3-hydroxypropyl]-4-(3′-hydroxybiphenyl-4-yl)-1-phenylazetidin-2-one was synthesized in a manner similar to that described in Example 42. (3R,4S)-4-(3′-{[tert-Butyl(dimethyl)silyl]oxy}biphenyl-4-yl)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-1-phenylazetidin-2-one (0.60 g, 0.86 mmol) was stirred at room temperature in acetonitrile (18 mL) in a 40 ml polypropylene vial fitted with a screw cap. Hydrogen fluoride (48% aqueous, 2.0 mL, 48 mmol) was dripped in and stirring was continued at room temperature overnight. The reaction mixture was poured into an aqueous solution of 1 N sodium hydroxide (45 mL) buffered with 1 M sodium phosphate (45 mL, pH 7.4), then the pH of the solution was brought to pH 8 with the addition of aqueous 10% sodium bicarbonate solution. The mixture was extracted with ethyl acetate and the organic solution was washed successively with 10% sodium bicarbonate solution (2×), water (2×) and brine. The organic solution was dried over sodium sulfate, filtered and the solvent was removed by rotary evaporation under reduced pressure. Pure (3R,4S)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-(3′-hydroxybiphenyl-4-yl)-1-phenylazetidin-2-one was obtained as a white foam (0.35 g, 87%) by chromatography over silica gel using ethyl acetate-hexane (gradient: 10% ethyl acetate to 60%) 1H NMR (300 MHz, CDCl3) δ 7.56 (d, J=8.2, Hz, 2H), 7.39 (d, J=8.2 Hz, 2H), 7.0-7.3 (m, 12H), 6.80-6.86 (m, 1H), 5.00 (br s, 1H), 4.74 (t, J=6.2 Hz, 1H), 4.69 (d, J=2.2 Hz, 1H), 3.1-3.2 (m, 1H), 2.20 (br s, 1H), 1.8-2.1 (m, 4H) ppm; MS [M+HCO2−]− 512.

reactant | (3R,4S)-4-(3′-{[tert-Butyl(dimethyl)silyl]oxy}biphenyl-4-yl)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-1-phenylazetidin-2-one | 0.86 mmol, 0.60 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)C1=CC=C(C=C1)[C@@H]1[C@H](C(N1C1=CC=CC=C1)=O)CC[C@@H](C1=CC=C(C=C1)F)O[Si](C)(C)C(C)(C)C | C42H54FNO3Si2
reactant | polypropylene | 40 ml | C(C(C)[*:2])[*:1]
reactant | Hydrogen fluoride | 48 mmol, 2.0 mL | F | FH
reactant | sodium hydroxide | 1 N, 45 mL | [OH-].[Na+]
reactant | sodium phosphate | 1 M, 45 mL, pH 7.4 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 18 mL | C(C)#N | C2H3N
product | (3R,4S)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-(3′-hydroxybiphenyl-4-yl)-1-phenylazetidin-2-one | FC1=CC=C(C=C1)[C@H](CC[C@H]1C(N([C@@H]1C1=CC=C(C=C1)C1=CC(=CC=C1)O)C1=CC=CC=C1)=O)O | C30H26FNO3
